US04339443
Sodium (2-methylperhydro-1,3-diazin-2-yl)phosphonite
Sodium acetylphosphinate (2.6 g, 0.02 mol) and 1,3-diaminopropane (1.7 ml, 1.5 g, 0.02 mol) were stirred together in ethanol (60 ml) for 21/2 days, giving a cloudy pale yellow solution. This was evaporated inder reduced pressure, giving a sticky hydroscopic yellow solid, which contains ethanol by nmr. The solid was dissolved in ethanol, toluene added and re-evaporated to dryness, giving a yellow foam, mp 144°-6°, decomp (3.2 g, 86%). NMR was consistent with the desired structure.

reactant | Sodium acetylphosphinate | 0.02 mol, 2.6 g | C(C)(=O)P([O-])=O.[Na+]
reactant | 1,3-diaminopropane | 0.02 mol, 1.7 ml, 1.5 g | NCCCN | C3H10N2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | Sodium (2-methylperhydro-1,3-diazin-2-yl)phosphonite | CC1(NCCCN1)P([O-])[O-].[Na+].[Na+] | InChI=1S/C5H11N2O2P.2Na/c1-5(10(8)9)6-3-2-4-7-5;;/h6-7H,2-4H2,1H3;;/q-2;2*+1
